2151-02-04 06:23:00 Physician Resident Progress Note
Chief Complaint: melena
   24 Hour Events:
   [**2-3**] events:
   - stable on floor
   - s/p 3 units, hct still 21; hanging 2 more units now
 MULTI LUMEN - START [**2151-2-3**] 07:25 PM
   Allergies:
   Penicillins
   Nausea/Vomiting
   Fosamax (Oral) (Alendronate Sodium)
   tinnitus
   ? eso
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-2-3**] 09:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-4**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 71 (71 - 90) bpm
   BP: 109/60(71) {99/44(57) - 112/60(71)} mmHg
   RR: 17 (16 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                    710 mL
                                                                    382 mL
   PO:
           TF:
   IVF:
                                                                     10 mL
                                                                    100 mL
   Blood products:
                                                                    700 mL
                                                                    282 mL
   Total out:
                                                                    365 mL
                                                                    560 mL
   Urine:
                                                                    365 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    345 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General: awake and alert, answering questions in full sentences, alert
   and oriented
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: CTA B, no wheezes, rales, ronchi
   CV: RRR, no m,r,g
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, palp pulses, no pedal edema, R leg with staples and long
   knee incision, no redness or signs of infection
   Labs / Radiology
   314 K/uL
   7.7 g/dL
   99 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   35 mg/dL
   109 mEq/L
   141 mEq/L
   21.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2151-2-3**]  09:00 PM
                             [**2151-2-4**]  03:04 AM
   WBC
   9.5
   Hct
   19.5
   21.7
   Plt
   314
   Cr
   0.7
   TropT
   <0.01
   Glucose
   99
   Other labs: PT / PTT / INR:16.7/28.5/1.5, CK / CKMB /
   Troponin-T:45//<0.01, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is a 74 y/o F with hx of afib, recent TKA who presents with 2 days
   of melena, dizziness, hypotension consistent with an upper GI bleed.
   # GIB: Given black tarry stools and coffee ground emesis, likelyupper
   GI source; however, it is also possible for a right sided lower GI
   bleed.  Probably not L side as stool is not bloody.  Received one unit
   of PRBCs in the ED, receiving second unit on the floor.  BP stable.  HR
   in the 80s, although is beta blocked.
   - Tx PRBCs to Hct >30
   - continue NS IVFs
   - IV protonix 40 mg [**Hospital1 **]
   - serial Hcts
   - has femoral CVL, one 18 g PIV, appropriate access
   - GI team to do EGD today
   - NG placed this morning, no coffee ground emesis with lavage
   - consulting surgery due to inappropriate bump after 5 units of PRBCs.
   .
   # Supratherapeutic INR: On coumadin, INR 10.0 on admission and now s/p
   10 mg Vit K and 2 u FFP.  Also on lovenox, was reversed with protamine
   in the ED.
   - INR now 1.5
   - no further need for Vit K tonight, can redose tomorrow if still
   supratherapeutic
   - holding lovenox / coumadin
   .
   # Nausea:  likely due to blood in stomach, although nausea has been
   anginal equivalent in the past.
   - tx with zofran PRN
   - NG placed
   - EKG with no signs of ischemia, first set of CEs negative, does not
   warrant ROMI as GI bleed is likely source of symptoms
   .
   # Afib: likely in afib at rehab today, currently in NSR.
   - holding metoprolol in setting of hypotension and GI bleed
   - holding coumadin
   - monitor on telemetry
   .
   # Swollen TKA
 orthopedic surgery team following, possibly has
   hematoma in knee with her elevated INR.
   - plain films of knee
   - monitor clinically
   - if still swollen will need washout
   - pretreatment prior to EGD with ancef.
   .
   # HTN: with GI bleed was hypotensive
 now normotensive
   - holding both metoprolol and lisinopril
   .
   # FEN: IVFs, replete electrolytes, NPO all day today for possible knee
   washout tomorrow
   .
   # Prophylaxis: pneumoboots, IV PPI, no bowel reg for now
   .
   # Access: fem CVL place in ED [**2-3**], one 18 g PIV
   .
   # Code: confirmed Full.
   .
   # Communication: Patient, husband # [**Telephone/Fax (1) 5542**].
   .
   # Disposition: MICU, pending resolution of GI bleed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-2-3**] 07:25 PM
   18 Gauge - [**2151-2-3**] 07:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-02-05 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -EGD showed multiple duodenal ulcers, recent clot, injected with epi
   -serial HCTs stable
   -Ortho to eval R knee for ?hematoma -> no acute intervention today
   -AF with RVR overnight, received metoprolol 10mg IV x 2, given
   metoprolol 50mg PO -> minimal response
   -pt needs APG attending when tx to floor
   Allergies:
   Penicillins
   Nausea/Vomiting
   Fosamax (Oral) (Alendronate Sodium)
   tinnitus
   ? eso
   Last dose of Antibiotics:
   Cefazolin - [**2151-2-4**] 10:15 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2151-2-4**] 11:30 AM
   Fentanyl - [**2151-2-4**] 11:30 AM
   Pantoprazole (Protonix) - [**2151-2-4**] 08:00 PM
   Metoprolol - [**2151-2-5**] 06:14 AM
   Morphine Sulfate - [**2151-2-5**] 06:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-2-5**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 140 (72 - 142) bpm
   BP: 96/64(72) {93/46(60) - 121/71(85)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
                  Total In:
                                                                    772 mL
                  PO:
                  TF:
   IVF:
                                                                    220 mL
   Blood products:
                                                                    552 mL
   Total out:
                                                                  2,030 mL
                                                                    660 mL
   Urine:
                                                                  1,980 mL
                                                                    660 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,258 mL
                                                                   -660 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General: awake and alert, answering questions in full sentences, alert
   and oriented
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: CTA B, no wheezes, rales, ronchi
   CV: RRR, no m,r,g
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, palp pulses, no pedal edema, R leg with staples and long
   knee incision, swollen and ecchymotic but no signs of infection
   Labs / Radiology
   318 K/uL
   9.4 g/dL
   92 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   19 mg/dL
   106 mEq/L
   139 mEq/L
   26.4 %
   9.9 K/uL
        [image002.jpg]
                             [**2151-2-3**]  09:00 PM
                             [**2151-2-4**]  03:04 AM
                             [**2151-2-4**]  10:15 AM
                             [**2151-2-4**]  01:55 PM
                             [**2151-2-4**]  06:20 PM
                             [**2151-2-4**]  11:58 PM
                             [**2151-2-5**]  04:34 AM
   WBC
   9.5
   9.9
   Hct
   19.5
   21.7
   27.6
   26.7
   26.4
   25.5
   26.4
   Plt
   314
   318
   Cr
   0.7
   0.6
   TropT
   <0.01
   Glucose
   99
   92
   Other labs: PT / PTT / INR:13.7/24.0/1.2, CK / CKMB /
   Troponin-T:45//<0.01, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 74 y/o F with hx of afib, recent TKR who presents with 2 days
   of melena, dizziness, hypotension consistent with an upper GI bleed.
   # GIB: EGD [**2-4**] revealed duodenal ulcers with no signs of active
   bleeding but did have recent clot.
   - Tx PRBCs to Hct >30
   - continue NS IVFs
   - IV protonix 40 mg [**Hospital1 **]
   - HCTs stable
   - has femoral CVL, one 18 g PIV, appropriate access
   - surgery following (had inappropriate bump after 5 units of PRBCs on
   presentation)
   - f/u gastrin and H. pylori studies
   .
   # Supratherapeutic INR: On coumadin, INR 10.0 on admission and now s/p
   10 mg Vit K and 2 u FFP.  Also on lovenox, was reversed with protamine
   in the ED.
   - INR now 1.2
   - no further need for Vit K tonight
   - holding coumadin/lovenox
   .
   # Nausea:  likely due to blood in stomach, although nausea has been
   anginal equivalent in the past.
   - improved
   - tx with zofran PRN
   - EKG with no signs of ischemia, first set of CEs negative, does not
   warrant ROMI as GI bleed is likely source of symptoms
   .
   # Afib: was in NSR during the day and then had AF with RVR overnight,
   unresponsive to metoprolol IV.  Per pt these paroxysms are not unusual
   for the pt.  Pt completely asymptomatic and never hypotensive.
   - metoprolol held yesterday in setting of hypotension and GI bleed
   - received metoprolol 10mg IV x 2 and 50mg PO overnight, continue home
   dose today
   - IV metoprolol/diltiazem PRN
   -monitor on telemetry
   .
   # Swollen TKA
 orthopedic surgery team following, possibly has
   hematoma in knee with her elevated INR.
   - R knee xray with no intra-articular abnormalities
   - Ortho following, no acute interventions
   - Begin AROM/PROM with PT for right knee as tolerated
   .
   # HTN: with GI bleed was hypotensive
 now normotensive
   - continue metoprolol and lisinopril
   .
   # FEN: IVFs, replete electrolytes
   .
   # Prophylaxis: pneumoboots, IV PPI, no bowel reg for now
   .
   # Access: fem CVL place in ED [**2-3**], one 18 g PIV
   .
   # Code: confirmed Full.
   .
   # Communication: Patient, husband # [**Telephone/Fax (1) 5542**].
   .
   # Disposition: likely to floor today if AF with RVR can be controlled
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-2-3**] 07:25 PM
   18 Gauge - [**2151-2-3**] 07:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: